US09403816B2
Methyl 5-bromo-2-(2-(pyridin-2-yl)acetamido)benzoate
Into a 250-mL round-bottom flask was placed a solution of methyl 2-amino-5-bromobenzoate (5 g, 21.73 mmol), 2-(pyridin-2-yl)acetic acid hydrochloride (4.5 g, 25.92 mmol), HATU (10 g, 26.30 mmol) and DIEA (8.5 g, 65.77 mmol) in N,N-dimethylformamide (100 mL). The resulting solution was stirred overnight at 20° C. The reaction was then quenched by the addition of 100 mL of water. The resulting solution was extracted with 3×100 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (1:50) to afford the title compound as a red solid.

reactant | methyl 2-amino-5-bromobenzoate | 21.73 mmol, 5 g | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | 2-(pyridin-2-yl)acetic acid hydrochloride | 25.92 mmol, 4.5 g | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | HATU | 26.30 mmol, 10 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 65.77 mmol, 8.5 g | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | Methyl 5-bromo-2-(2-(pyridin-2-yl)acetamido)benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(CC1=NC=CC=C1)=O | C15H13BrN2O3
